US04448781
A mixture of 2-(1-imidazolylmethyl)-4-methyl-phenoxyacetic acid ethyl ester (1.0 g) and 10 ml of 2.5 N sodium hydroxide solution was stirred at room temperature overnight. The solution was acidified with dilute hydrochloric acid and evaporated. The residue was extracted with boiling ethanol (2×50 ml) and the extracts were evaporated to give a solid which was crystallised from ethanol/ether to give 2-(1-imidazolylmethyl)-4-methyl-phenoxyacetic acid hydrochloride hemihydrate (0.50 g), m.p. 198°-201° C. Found: C, 53.69, H, 5.26, N, 9.45. C13H14N2O3.HCl.1/2H2O requires: C, 53.52, H, 5.53, N, 9.60%.

reactant | 2-(1-imidazolylmethyl)-4-methyl-phenoxyacetic acid ethyl ester | 1.0 g | C(C)OC(COC1=C(C=C(C=C1)C)CC=1NC=CN1)=O | C15H18N2O3
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 2.5 N, 10 ml | [OH-].[Na+]
product | 2-(1-imidazolylmethyl)-4-methyl-phenoxyacetic acid hydrochloride hemihydrate | 0.50 g | O.Cl.N1C(=NC=C1)CC1=C(OCC(=O)O)C=CC(=C1)C.N1C(=NC=C1)CC1=C(OCC(=O)O)C=CC(=C1)C.Cl | InChI=1S/2C13H14N2O3.2ClH.H2O/c2*1-9-2-3-11(18-8-13(16)17)10(6-9)7-12-14-4-5-15-12;;;/h2*2-6H,7-8H2,1H3,(H,14,15)(H,16,17);2*1H;1H2
